US07723345B2
NaH (80 mg, 60%, 3.0 mmol) was added to a solution of 1-(4-methylphenyl)-2,2,2-trifluoro-ethanol (190 mg, 1 mmol) in 10 ml of anhydrous THF. The mixture was stirred for 20 minutes, 2-amino-4,6-dichloro-pyrimidine (164 mg, 1 mmol) was added and then the reaction mixture was heated at 70° C. for 1 hour. After cooling, 5 ml water was added and ethyl acetate (20 ml) was used to extract the product. The organic layer was dried over sodium sulfate. The solvent was removed by rotovap to give 209 mg of 4-chloro-6-[1-(4-methylphenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-2-ylamine, yield 66%.

reactant | NaH | 3.0 mmol, 80 mg | [H-].[Na+]
reactant | 1-(4-methylphenyl)-2,2,2-trifluoro-ethanol | 1 mmol, 190 mg | CC1=CC=C(C=C1)C(C(F)(F)F)O | C9H9F3O
reactant | 2-amino-4,6-dichloro-pyrimidine | 1 mmol, 164 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | water | 5 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6-[1-(4-methylphenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-2-ylamine | 209 mg, yield 66% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC=C(C=C1)C)N | C13H11ClF3N3O
